US05292749
(R)-3-Quinuclidinyl (RS)-2-hydroxy-2-phenyl-3-(pyrazin-2-yl)propanoate
2-Methylpyrazine (0.94 g) in tetrahydrofuran (THF) (5 ml) was added dropwise to lithium diisopropylamide (LDA) (7.51 ml of a 1.5 molar solution in THF) in THF (20 ml) at -78° C. After 0.75 hour a solution of (R)-3-quinuclidinyl 2-phenylglyoxalate (see Preparation 2) (2.59 g) in THF (20 ml) was added, the reaction mixture was allowed to reach room temperature, stirred for 1 hour and partitioned between ethyl acetate and 10% aqueous potassium carbonate. The organic layer was then dried over magnesium sulphate and evaporated to leave a residue which was purified by chromatography on silica gel performing a gradient elution using chloroform plus methanol (0→15%). Appropriate fractions were combined and evaporated to give the title compound, as a yellow oil (1.4 g, 39%).

reactant | 2-Methylpyrazine | 0.94 g | CC1=NC=CN=C1 | C5H6N2
reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | (R)-3-quinuclidinyl 2-phenylglyoxalate | 2.59 g | C1(=CC=CC=C1)C(C(=O)O[C@H]1CN2CCC1CC2)=O | C15H17NO3
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | THF | 20 ml | O1CCCC1 | C4H8O
solvent | THF | 20 ml | O1CCCC1 | C4H8O
product | (R)-3-Quinuclidinyl (RS)-2-hydroxy-2-phenyl-3-(pyrazin-2-yl)propanoate | OC(C(=O)O[C@H]1CN2CCC1CC2)(CC2=NC=CN=C2)C2=CC=CC=C2 | C20H23N3O3
